US05391553
Three grams of 7-dodecyl-9-hydroxy-1,2,3,4-tetrahydroacridine was refluxed for 30 minutes in 30 mL of POCl3. At the end of this time the POCl3 was evaporated and the residue distributed between aqueous NH3 and ethyl ether. The organic phase was dried and evaporated to give 9-chloro-7-dodecyl-1,2,3,4-tetrahydroacridine (3.0 g) as a solid. A small sample was recrystallized from methanol to give fine needles, mp 36°-38°.

reactant | 7-dodecyl-9-hydroxy-1,2,3,4-tetrahydroacridine | Three grams | C(CCCCCCCCCCC)C1=CC=C2N=C3CCCCC3=C(C2=C1)O | C25H37NO
reactant | POCl3 | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 9-chloro-7-dodecyl-1,2,3,4-tetrahydroacridine | 3.0 g | ClC=1C2=CC(=CC=C2N=C2CCCCC12)CCCCCCCCCCCC | C25H36ClN
